US07888364B2
50 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to 1-acetylpiperazine via Procedure G. The product was purified on reverse phase HPLC to yield 4-(4-acetylpiperazine-1-carbonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 497 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 50 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 4-(4-acetylpiperazine-1-carbonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | C(C)(=O)N1CCN(CC1)C(=O)C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl | C25H22Cl2N4O3
